US09029391B2
5-Benzyloxy-2-(3-hydroxy-prop-1-ynyl)-benzoic acid methyl ester
To a solution of 5-Benzyloxy-2-bromo-benzoic acid methyl ester (120 g, 374 mmol) and prop-2-yn-1-ol (41.9 g, 747 mmol) in triethylamine (1 L), copper(I) iodide (0.712 g, 3.74 mmol) and bis(triphenylphosphine)palladium(II) chloride (26.2 g, 37.4 mmol) at RT under N2. The mixture was heated at 50° C. reflux under N2 for 12 hr. The reaction was cooled to room temperature, concentrated to dryness, diluted with H2O (50 mL) and extracted with ethyl acetate (500 mL*3), The organic phase was washed with saturated sodium bicarbonate solution 500 mL, dried over Na2SO4. After concentration, the crude product was purified by silica gel chromatography eluted with PE:EA=10:1˜4:1 to give title product (80 g, 72%) as yellow oil.

reactant | 5-Benzyloxy-2-bromo-benzoic acid methyl ester | 374 mmol, 120 g | COC(C1=C(C=CC(=C1)OCC1=CC=CC=C1)Br)=O | C15H13BrO3
reactant | prop-2-yn-1-ol | 747 mmol, 41.9 g | C(C#C)O | C3H4O
solvent | triethylamine | 1 L | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 3.74 mmol, 0.712 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 37.4 mmol, 26.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Benzyloxy-2-(3-hydroxy-prop-1-ynyl)-benzoic acid methyl ester | 80 g, 72% | COC(C1=C(C=CC(=C1)OCC1=CC=CC=C1)C#CCO)=O | C18H16O4
